US05053338
A mixture of 4.05 g (18.0 mmol) of 6-(3-chloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (prepared as described in Eur. Pat. application EPO 178,189), 4.52 g (21.6 mmol) of methyl 4-bromo-2,2dimethylbutyrate (prepared by treatment of 2,2-dimethylbutyrolactone with gaseous HBr, conversion to the acid chloride with oxalyl chloride, and treatment with methanol and triethylamine), and 2.99 g (21.6 mmol) of anhydrous K2CO3 in 40 ml of DMF is heated at 100° C. for 4 hrs under N2. The DMF is removed under vacuum, the residue taken up in 300 ml of 50:50 waterEtOAc, the organic phase washed with cold 5% NaOH (50 ml), then water (50 ml), and dried (MgSO4). The solvent is removed under vacuum to give an oily residue The oil is crystallized by the addition of 50 ml of ethyl ether to give 4.75 g of 6-[4-(3-carbomethoxy3,3-dimethylpropyloxy)-3-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone as a white crystalline solid, m.p. 109°-110° C. Yield, 75%.

reactant | 6-(3-chloro-4-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 18.0 mmol, 4.05 g | ClC=1C=C(C=CC1O)C=1CCC(NN1)=O | C10H9ClN2O2
reactant | methyl 4-bromo-2,2dimethylbutyrate | 21.6 mmol, 4.52 g | BrCCC(C(=O)OC)(C)C | C7H13BrO2
reactant | 2,2-dimethylbutyrolactone | CC1(C(=O)OCC1)C | C6H10O2
reactant | HBr | Br | BrH
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | K2CO3 | 21.6 mmol, 2.99 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 6-[4-(3-carbomethoxy3,3-dimethylpropyloxy)-3-chlorophenyl]-4,5-dihydro-3(2H)-pyridazinone | 4.75 g | C(=O)(OC)C(CCOC1=C(C=C(C=C1)C=1CCC(NN1)=O)Cl)(C)C | C17H21ClN2O4
